US04338317
A mixture of 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-1H-1,2,4-triazol-3(2H)-one (15 g., 0.043 mole), phenoxyethyl bromide (8.62 g., 0.043 mole) and potassium carbonate (11.9 g., 0.086 mole) and a trace of potassium iodide in 100 ml. of acetonitrile is refluxed for a 64 hr. period. The reaction mixture is filtered, the filtrate concentrated under reduced pressure and residual material taken up in ether and filtered. Concentration of the ethereal filtrate affords 18.35 g. (91%) of the free base product 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-4-(2-phenoxyethyl)-2H-1,2,4-triazol-3(4H)-one. The free base is converted to the hydrochloride in ethanol employing ethanolic hydrogenchloride and crystallized from ethanol to afford a 53% yield of analytically pure 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-4-(2-phenoxyethyl-2H-1,2,4-triazol- 3(4H)-one hydrochloride, m.p. 175°-177° C.

reactant | 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-1H-1,2,4-triazol-3(2H)-one | 0.043 mole, 15 g | ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1NC(=NC1=O)CC | C17H24ClN5O
reactant | phenoxyethyl bromide | 0.043 mole, 8.62 g | O(C1=CC=CC=C1)CCBr | C8H9BrO
reactant | potassium carbonate | 0.086 mole, 11.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-4-(2-phenoxyethyl)-2H-1,2,4-triazol-3(4H)-one | ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1N=C(N(C1=O)CCOC1=CC=CC=C1)CC | C25H32ClN5O2
reactant | hydrochloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-phenoxyethyl-2H-1,2,4-triazol- 3(4H)-one hydrochloride | 53% yield | Cl.O(C1=CC=CC=C1)CCN1N=CNC1=O | InChI=1S/C10H11N3O2.ClH/c14-10-11-8-12-13(10)6-7-15-9-4-2-1-3-5-9;/h1-5,8H,6-7H2,(H,11,12,14);1H
